US04440788
N-(N-Acetyl-S-ethyl-L-cysteinyl)pyrrolidine was synthesized in exactly the same manner as described in Example 14 except that the S-methyl-N-acetyl-L-cysteine and aqueous 70% ethylamine solution used in that example were replaced by S-ethyl-N-acetyl-L-cysteine and pyrrolidine, respectively.

reactant | S-methyl-N-acetyl-L-cysteine | CSC[C@H](NC(C)=O)C(=O)O | C6H11NO3S
reactant | ethylamine | C(C)N | C2H7N
reactant | S-ethyl-N-acetyl-L-cysteine | C(C)SC[C@H](NC(C)=O)C(=O)O | C7H13NO3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(N-Acetyl-S-ethyl-L-cysteinyl)pyrrolidine | C(C)(=O)N[C@@H](CSCC)C(=O)N1CCCC1 | C11H20N2O2S
